US07417169B2
Benzyl 4′-(2-hydroxyethoxy)-2′,3′-dimethylbiphenyl-4-carboxylate
A mixture of 2-(4-bromo-2,3-dimethylphenoxy)ethanol (0.531 g), 4-carboxyphenylboronic acid (0.360 g), tetrakis-(triphenylphosphine)palladium(0) (0.125 g), cesium fluoride (1.645 g), water (2 mL), ethanol (2 mL) and 1,4-dioxane (8 mL) was stirred at 80° C. for 3 hrs. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to afford 4′-(2-hydroxyethoxy)-2′,3′-dimethylbiphenyl-4-carboxylic acid (0.62 g) as a crude product. A mixture of the crude 4′-(2-hydroxyethoxy)-2′,3′-dimethylbiphenyl-4-carboxylic acid, benzyl bromide (0.445 g), and potassium carbonate (0.450 g) in N,N-dimethylformamide (20 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/2) to afford the title compound (0.033 g).

reactant | 4′-(2-hydroxyethoxy)-2′,3′-dimethylbiphenyl-4-carboxylic acid | OCCOC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)O)C)C | C17H18O4
reactant | benzyl bromide | 0.445 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.450 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Benzyl 4′-(2-hydroxyethoxy)-2′,3′-dimethylbiphenyl-4-carboxylate | 0.033 g | OCCOC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1)C)C | C24H24O4
